Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Transaminitis
 
Major Surgical or Invasive Procedure:
Liver biopsy ___ 

 
History of Present Illness:
___ y.o. woman with obesity, breast cancer in ___ s/p 
lumpectomy/chemo/radiation, asthma, and depression presents with 
transaminitis. Pt states for about the past 1 week she has been 
feeling unwell with decreased appetite, decreased appetite and 
dark urine. She initially thought she had gastro following 
eating ___ chili last weekend, but symptoms persisted. Went 
to ___ where urine showed elevated bili in urine, drew labs 
revealing markedly elevated LFTs/bili, had negative ___ u/s. 
Sent to ED for hepatology w/u. Pt denies Tylenol intake for >1 
month, no significant EtOH use (last drink was in ___, no 
IVDU. Fully vaccinated, no recent sick contacts. Never been 
vaccinated to hep A per pt.  

In the ED, initial vitals were: T 97.6 HR 86 BP 119/75 RR 16 
SpO2 97% RA. Initial labs notable for AKT 4114 AST 2947 Tbili 
8.3 AP 184 lactate 0.9, WBC 3.4, Cr 0.9. UA was bland. Toxic 
screen (including Tylenol) was unremarkable. Abd U/S showed no 
cholelithiasis or other gallbladder pathology and 6 mm 
nonobstructing right lower pole renal stone. The patient was 
seen by both Hepatology and Transplany surgery. Given clinical 
stability no surgical interventions recommended.  

On the floor,  the patient again explains that she's been 
feeling unwell about a week. She has never previously had 
similar symptoms. She denies sick contacts. She has no travel hx 
outside the country but did go to ___ in ___. 
Approximate 6 weeks ago, she describes having a flu-like illness 
despite having gotten the flu shot this year. This week, she 
newly started taking Seroquel and tried diazepam for insomnia. 
Otherwise she has not been taking her medications due to her 
malaise. She denies EtOH in the last month and denies any 
history of heavy use. She denies taking any supplements except a 
multivitamin from ___ and denies controlled substances.
 
Past Medical History:
ACNE  
ASTHMA (resolved since quitting smoking)
BREAST CANCER s/p  chemo/radiation
DEPRESSION  
EARLY MENOPAUSE  
OBESITY  
S/P REPLANTATION OF DIGIT (horse bite) 
UTERINE FIBROIDS  s/p myomectomy
Hepatitis A
 
Social History:
___
Family History:
Mother DIABETES ___  
Father ALZHEIMER'S DISEASE  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals:  98.8 120/58 70 97%RA
Wt: 93.6
General: Alert, oriented, no acute distress. Notably jaundiced.  
 
HEENT: Sclera icteric, MMM, oropharynx clear w/ jaundice, EOMI, 
PERRL  
Neck: Supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, tender to deep palpation in RUQ, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused,  no clubbing, cyanosis or edema  
Neuro: A&Ox3. No asterixis.  

DISCHARGE EXAM:
Vitals:  98.1 102/48 73 18 96%RA
Wt: 93.7 <- 93.6
General: Alert, oriented, sleeping but easily rousable. Notably 
jaundiced.   
HEENT: Sclera icteric, NCAT  
Neck: Supple  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, tender to deep palpation in RUQ. 
Bx site minimally tender, C/D/I. 
GU: No foley  
Ext: Warm, well perfused,  no clubbing, cyanosis or edema  
Neuro: A&Ox3.   
 
Pertinent Results:
ADMISSION LABS:
___ 10:00PM BLOOD WBC-3.4*# RBC-4.65 Hgb-13.6 Hct-40.6 
MCV-87 MCH-29.2 MCHC-33.5 RDW-14.0 RDWSD-44.4 Plt ___
___ 10:00PM BLOOD Neuts-61 Bands-1 ___ Monos-10 Eos-2 
Baso-0 Atyps-2* ___ Myelos-0 AbsNeut-2.11 AbsLymp-0.88* 
AbsMono-0.34 AbsEos-0.07 AbsBaso-0.00*
___ 10:00PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 10:00PM BLOOD ___ PTT-32.4 ___
___ 10:00PM BLOOD Glucose-89 UreaN-15 Creat-0.9 Na-134 
K-3.1* Cl-98 HCO3-26 AnGap-13
___ 10:00PM BLOOD Glucose-89 UreaN-15 Creat-0.9 Na-134 
K-3.1* Cl-98 HCO3-26 AnGap-13
___ 02:21PM BLOOD ALT-4545* AST-3363* AlkPhos-203* 
Amylase-61 TotBili-7.8* DirBili-6.1* IndBili-1.7
___ 02:21PM BLOOD Lipase-43
___ 02:21PM BLOOD TotProt-6.7 Albumin-3.9 Globuln-2.8
___ 06:10PM BLOOD calTIBC-299 Ferritn-5012* TRF-230
___ 02:21PM BLOOD TSH-1.6
___ 10:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:50PM BLOOD HCV Ab-NEGATIVE
___ 12:45AM BLOOD ___ pO2-55* pCO2-40 pH-7.40 
calTCO2-26 Base XS-0
___ 12:45AM BLOOD Lactate-0.9
___ 06:10PM BLOOD HERPES SIMPLEX VIRUS 1 AND 2 (IGG)- HSV1 
positive

DISCHARGE LABS:       
___ 06:25AM BLOOD WBC-5.0 RBC-4.50 Hgb-12.9 Hct-39.0 MCV-87 
MCH-28.7 MCHC-33.1 RDW-15.2 RDWSD-47.8* Plt ___
___ 06:25AM BLOOD ___ PTT-28.7 ___
___ 06:25AM BLOOD Glucose-91 UreaN-9 Creat-0.8 Na-136 K-3.8 
Cl-101 HCO3-29 AnGap-10
___ 06:25AM BLOOD ALT-1806* AST-500* AlkPhos-165* 
TotBili-9.6*
___ 10:00PM BLOOD Lipase-54
___ 06:25AM BLOOD Calcium-8.4 Phos-2.6* Mg-1.9
___ 06:25AM BLOOD HAV Ab-PND
___ 06:10PM BLOOD HBsAg-NEGATIVE HBsAb-PND IgM HBc-PND
___ 10:50PM BLOOD HBsAb-NEGATIVE IgM HBc-PND IgM 
HAV-POSITIVE *
___ 06:10PM BLOOD AMA-NEGATIVE Smooth-POSITIVE *
___ 06:10PM BLOOD ___ * Titer-1:160
___ 06:10PM BLOOD IgG-1131 IgA-219 IgM-270*
___ 06:10PM BLOOD HIV Ab-Negative
___ 06:10PM BLOOD HCV Ab-NEGATIVE
___ 12:45AM BLOOD Lactate-0.9

MICRO: 
   CMV IgG ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgG ANTIBODY BY EIA. 
      <4 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


                      **FINAL REPORT ___

   HCV VIRAL LOAD (Final ___: 
      HCV-RNA NOT DETECTED. 
      Performed using Cobas Ampliprep / Cobas Taqman HCV v2.0 
Test. 
      Linear range of quantification: 1.50E+01 IU/mL - 1.00E+08 
IU/mL. 
      Limit of detection: 1.50E+01 IU/mL.

                           **FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    NEGATIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION:  INFECTION AT UNDETERMINED TIME. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

IMAGING:

___ Abdominal US:   
IMPRESSION: 
1. No cholelithiasis or other gallbladder pathology. 
2. 6 mm nonobstructing right lower pole renal stone. 

PATHOLOGY:

___ Liver Bx pending
 
Brief Hospital Course:
Ms. ___ is a ___ y.o. woman with remote history of breast 
cancer and depression presented with transaminitis. 

# Acute Hepatitis: Likely due to Hepatitis A given positive ___ 
IgM. Patient developed malaise and dark urine in the week 
leading up to admission. She presented with a MELD of 7. She 
denies EtOH or supplements and Tylenol level was normal. Did 
have a flu-like illness 6 weeks ago despite having the flu shot 
and traveled to ___ last month and recently re-started 
seroquel. Home meds were held. HIV, HBsAg, HBsAb, and HCV viral 
load & Ab were negative. Ferritin was notably elevated to 5012 
although iron was within normal limits. AMA was negative. ___ 
was positive although IgG was WNL. HSV1 was positive although 
test cannot differentiate between past and current infection. 
___, HBcAb, and CMV were still pending at discharge. She 
underwent a liver biopsy on ___. Itch was managed with Atarax, 
Benadryl, sarna, and ursodiol. On discharge transaminases were 
downtrending.

# Depression: Has not been taking wellbutrin for last week. It 
was held during admission although unlikely to be the cause of 
the hepatitis. 

# Hx of breast cancer: s/p lumpectomy, chemo, radiation in 
1990s. C/b early menopause ~age ___. No hx of recurrence. 

========================
Transitional issues:
- Discharged on atarax and ursodiol for itch
- Liver biopsy pending, should have close hepatology follow-up
- ___, HBcAb, HepAIGG, CMV were still pending 

# CODE: FULL (confirmed) 
# CONTACT: HCP ___ (friend) ___ ___ 
(Friend) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 150 mg PO DAILY 
2. BuPROPion 300 mg PO DAILY 
3. Diazepam 2 mg PO QHS 
4. Spironolactone 100 mg PO DAILY Acne 
5. Multivitamins 1 TAB PO DAILY 
6. Loratadine 10 mg PO DAILY 
7. QUEtiapine Fumarate Dose is Unknown  PO QHS 

 
Discharge Medications:
1. HydrOXYzine ___ mg PO Q6H:PRN itching 
RX *hydroxyzine HCl 25 mg ___ pills by mouth q6hr Disp #*120 
Tablet Refills:*0
2. Ursodiol 300 mg PO BID 
RX *ursodiol 300 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0
3. BuPROPion 150 mg PO DAILY 
4. BuPROPion 300 mg PO DAILY 
5. Loratadine 10 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Spironolactone 100 mg PO DAILY Acne 
8. Diazepam 2 mg PO QHS 
9. QUEtiapine Fumarate 25 mg PO ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Hepatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were seen at ___ due to acute hepatitis. You underwent a 
liver biopsy and multiple serologic tests. These indicated that 
you have Hepatitis A, which a self-limited viral illness of your 
liver. We expect you to make a full recovery in ___, 
although you should start to feel better before then. Please 
follow up at your primary care for the final results of your 
biopsy. In the meantime, we have provided you some medications 
for your itch. 

We wish you all the best. Go blue.

-Your ___ team
 
Followup Instructions:
___